US03989707
A mixture of 14 parts of ethyl 4-[5-chloro-1,3-dihydro-2-oxo-3-(2-propynyl)-2H-benzimidazol-1-yl]-1-piperidinecarboxylate, 20 parts of potassium hydroxide, 128 parts of 2-propanol and 2.5 parts of water is stirred and refluxed overnight. After cooling, the solvent is evaporated and water is added to the residue. The product is extracted with methylbenzene. The extract is dried, filtered and evaporated. The oily residue is converted into the hydrochloride salt in 2,2'-oxybispropane and 2-propanol. The salt is filtered off and crystallized from ethanol, yielding 5-chloro-1,3-dihydro-3-(2-oxopropyl)-1-(4-piperidinyl)-2H-benzimidazol-2-one hydrochloride.

reactant | ethyl 4-[5-chloro-1,3-dihydro-2-oxo-3-(2-propynyl)-2H-benzimidazol-1-yl]-1-piperidinecarboxylate | ClC1=CC2=C(N(C(N2CC#C)=O)C2CCN(CC2)C(=O)OCC)C=C1 | C18H20ClN3O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-propanol | CC(C)O | C3H8O
solvent | water | O | H2O
product | 5-chloro-1,3-dihydro-3-(2-oxopropyl)-1-(4-piperidinyl)-2H-benzimidazol-2-one hydrochloride | Cl.ClC1=CC2=C(N(C(N2CC(C)=O)=O)C2CCNCC2)C=C1 | InChI=1S/C15H18ClN3O2.ClH/c1-10(20)9-18-14-8-11(16)2-3-13(14)19(15(18)21)12-4-6-17-7-5-12;/h2-3,8,12,17H,4-7,9H2,1H3;1H
